US08049016B2
Synthesis of 2-[1-(cyclopropylmethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl]-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 1, making variations as required to replace 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid with 2-(1-(cyclopropylmethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as an off-white solid in 43% yield: mp 180-181° C. (ethanol/water); 1H NMR (300 MHz, DMSO-d6) δ 8.73 (s, 1H), 7.63 (br, 2H), 3.66 (d, J=7.0 Hz, 2H), 2.55 (s, 3H), 1.21-1.11 (m, 1H), 0.54-0.48 (m, 2H), 0.38-0.32 (m, 2H); 13C NMR (75 MHz, DMSO-d6) δ 162.6, 151.3, 150.9, 149.5, 131.4, 122.9, 49.4, 16.8, 10.0, 3.3; MS (ES+) m/z 280.3 (M+1).

reactant | 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2N=CN(C2=O)C=2SC(=C(N2)C)C(=O)O)C=C1 | C14H11FN4O3S
reactant | 2-(1-(cyclopropylmethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid | C1(CC1)CN1N=CN(C1=O)C=1SC(=C(N1)C)C(=O)O | C11H12N4O3S
product | 2-[1-(cyclopropylmethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl]-4-methylthiazole-5-carboxamide | 43% yield | C1(CC1)CN1N=CN(C1=O)C=1SC(=C(N1)C)C(=O)N | C11H13N5O2S
